Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ M with history of hypertension, small cell 
carcinoma with metastases who presented to the ED for evaluation 
after syncopal episode 4 days ago. He reports that he has been 
experiencing intermittent, brief episodes of chest discomfort 
for some time, each lasts seconds and then spontaneously 
resolved. He has not been followed by a cardiologist. On ___, 
he was shopping at ___ when he experienced "massive chest 
tightness" followed by cloudiness and he "knew he was in 
trouble."  He tried to hold onto some shelving, but then passed 
out. He fell landing on his left
side.  He did have a head strike on the cement floor on the left
side of his head. He does not recall any associated symptoms of 
neck, arm, back pain, diaphoresis, shortness of breath, double 
vision or nausea.
  
Over these past several days, he says notes felling "kind of 
woozy" having trouble filing and getting items put in the right 
place. After evaluation by primary care nurse practitioner she 
referred patient to ED for further evaluation s/p head strike 
with syncope and concern for post-concussive symptoms.
     
In the ED, initial vitals 98.7 72 156/62 18 100% ra. Aspirin was 
given for presumed ACS. Troponin was negative, CXR negative, UA 
unremarkable and syncope evaluation initiated.
  
Vitals prior to transfer: T:97.9, 65, 18,152/78, 100%Ra  
    
On presentation to the floor patient is pleasant, appropriate 
and in NAD.
    
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
- Hypertension.
- Small cell carcinoma with unknown primary.
- History of prostate nodule.
- Unknown etiology of benign mass in the right anterior thigh 
region 
  
SURGICAL HISTORY:
- Appendectomy
- Rectal Fistula Repair

 
Social History:
___
Family History:
- Mother died age ___ secondary to complications of stroke.  
Father died age ___ of myocardial infarction.  Siblings with 
history of prostate cancer and coronary artery disease.

 
Physical Exam:
Admission Exam:
VS - 98.1 153/76 72 20 100%RA, orthostatic vital signs unchanged
GENERAL - Well-appearing, pleasant ___ yo M who appears tanned, 
younger than stated age, comfortable, appropriate and in NAD
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality, 
___ holosytolic murmur heard best of apex
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric. 
  
Discharge Exam:
GENERAL - Well-appearing, pleasant ___ yo M 
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically  
HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality, 
___ holosytolic murmur heard best of apex
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
   
 
Pertinent Results:
Admission:
___ 11:15AM BLOOD WBC-5.8 RBC-4.98 Hgb-14.6 Hct-44.7 MCV-90 
MCH-29.3 MCHC-32.7 RDW-13.5 Plt ___
___ 11:15AM BLOOD Neuts-54.2 ___ Monos-6.8 Eos-5.0* 
Baso-0.7
___ 11:15AM BLOOD ___ PTT-33.2 ___
___ 11:15AM BLOOD Glucose-103* UreaN-20 Creat-0.9 Na-140 
K-3.6 Cl-100 HCO3-31 AnGap-13
___ 06:50PM BLOOD CK(CPK)-112
___ 11:15AM BLOOD cTropnT-<0.01
___ 11:15AM BLOOD Calcium-9.9 Phos-3.1 Mg-2.0
  
Troponins:
___ 11:15AM BLOOD cTropnT-<0.01
___ 06:50PM BLOOD CK-MB-3 cTropnT-<0.01
  
UA: Color Straw  Appear Clear  SpecGr 1.009  pH 7.5  Urobil Neg  
Bili Neg Leuk Neg  Bld Neg  Nitr Neg  Prot Neg  Glu Neg  Ket Neg 
 
  
Discharge Labs:
___ 05:54AM BLOOD WBC-8.2 RBC-4.57* Hgb-13.6* Hct-41.2 
MCV-90 MCH-29.8 MCHC-33.0 RDW-13.6 Plt ___
___ 05:54AM BLOOD Glucose-93 UreaN-23* Creat-1.1 Na-144 
K-4.0 Cl-104 HCO3-31 AnGap-13
___ 05:54AM BLOOD ALT-18 AST-25
   
Reports:
CT Head:
There is no acute hemorrhage, edema, or shift of the normally 
midline structures.  No large territorial or vascular infarction 
is seen.  Slight prominence of the ventricles and sulci is 
compatible with age-related degeneration.  Scattered 
periventricular white matter hypodensities, although 
nonspecific, likely relate to chronic small vessel ischemic 
disease.  Lens and globes are normal.  There is a mucous 
retention cyst seen within the right maxillary sinus, which has 
decreased from prior.  Otherwise, the mastoid air cells and 
visualized paranasal sinuses are unremarkable.  Degenerative 
changes are seen at the C1-C2 level.  There is no acute fracture 

  
CXR: 
The heart is at the upper limits of normal size.  The aortic 
arch is partly calcified.  There is mild unfolding along the 
lower descending 
thoracic aorta.  Slight biapical pleural scarring is stable.  
The lungs appear otherwise clear.  There is no pleural effusion 
or pneumothorax. Mild degenerative changes are similar along the 
mid-to-lower thoracic spine.  A pectus deformity is present. 

EKG: Sinus at 75bpm with AV conduction delay, right axis 
deviation, Q waves in II<III and aVF though consistent with 
prior EKG.
 
Brief Hospital Course:
Patient is a ___ yo M with history of hypertension, small cell 
carcinoma with metastases who was sent to ED for evaluation 
after syncopal episode and head strike 5 days prior to admission 
without clear etiology.
  
# Syncope: Based on history it sounds like patient may have 
suffered an acute coronary event with resulting myocardial 
ischemia. Ischemia may have caused an acute vasovagal episode or 
ischemic arrhythmia resulting in syncopal episode. EKG unchanged 
and with negative serial troponins. Episode of chest tightness 
and syncope was 5 days prior to admission so would expect 
troponin to be positive if infarction occurred. EKG with Q waves 
inferiorly suggesting prior inferior MI though consistent and 
unchanged from prior EKG in ___. Inferior MI can result in 
increased vagal tone causing vasovagal event which could have 
been cause of syncope. Telemetry during admission largely 
unremarkable exept for one sone alarm for tachycardia >140s but 
this was sinus rhythm with PVCs. Cardiology was consulted and 
felt syncopal episode was not cardiac in origin and telemetry 
not concerning. He would need a TTE for monitoring of mitral 
regurgitation but not needed urgently. TTE was unable to be 
completed over the holiday weekend but not clear that TTE would 
change management in the acute setting anyway. Further work up 
was unremarkable. Patient did not appear dehydrated and with 
normal urinalysis and normal renal function. Patient was 
euglycemic and without orthostatic hypotension. CXR and UA do 
not suggest infectious process. Does describe some cervicalgia 
and numbness in left arm, usually in the mornings though 
occasionally with extension of neck so neurogenic component a 
possibility. Patient was continued on Aspirin 325mg Daily, 
Simvastatin 40mg Daily and Metoprolol Succinate 25mg Daily. 
         
# Small cell carcinoma: Chronic, stable. Metastases to groin 
from unknown primary. Followed by ___ 
___ as outpatient oncology.
     
# Hypertension: Chronic, uncontrolled, hypertensive on 
admission. Continued Metoprolol as above. Discontinued 
Hydrochlorothiazide 25 mg Tablet PO daily in favor of 
Chlorthalidone 12.5mg Daily for prolonged 24 hour duration of 
effect and improved cardiovascular outcomes over HCTZ. There 
were no electrolyte abnormalities during admission so no need to 
discontinue diuretic. Started Lisinopril for continued 
hypertension and possible ischemic event, ACE-I would be 
cardioprotective. After discussion with cards decision was made 
to discontinue lisinopril and change chlorthalidone back to 
hydrochlorothizide.
     
# Hyperlipidemia: Chronic, stable with good lipid profile 
(LDL<100). Continued Simvastatin 40mg daily. Some though 
regarding changing to Atorvastatin 80mg with concern for recent 
ischemic event but no need given low concern for ischemic event.
    
TRANSITIONAL ISSUES:
# CODE STATUS: Presumed Full  
# CONTACT: ___son) ___
# Patient will require a TTE post-discharge
# Patient should be set up with a cardiologist post-discharge 
for monitor rheumatic disease
# Should work up cervicalgia and neuropathic parasthesias as an 
outpatient
 
Medications on Admission:
- HYDROCHLOROTHIAZIDE - 25 mg Tablet PO daily
- METOPROLOL SUCCINATE - 25 mg PO daily
- SIMVASTATIN - 40 mg Tablet PO daily  
- ASPIRIN - 325 mg Tablet PO daily
- GABAPENTIN - 600 mg Capsule PO QHS
 
Discharge Medications:
1. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
5. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. Soft Cervical Collar
Wear soft cervical collar in reverse position to prevent 
hyperextension of the neck.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active: 
- Syncope
  
Chronic:
- Hypertension
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
  
It was a pleasure treating you during this hospitalization. You 
were admitted to ___ for 
evaluation after a fall 5 days ago. Your work up was largely 
unremarkable with a normal head CT scan which did not show 
bleed, negative chest x-ray without fractures. No evidence of 
infection could be found and cardiac work up did not show a 
heart attack. You are being disharged in improved condition 
after observation with plan for close outpatient follow up.
  
The following changes to your medications were made:
- No changes were made, please continue taking home medications 
as previously prescribed.
  
Instructions:
- You should follow up with a cardiologist to monitor the mitral 
valve regurgitation.
- You should have an echocardiogram. This can be arranged by 
your primary care physician.
- Please wear soft cervical collar. Wear in reverse position to 
prevent hyperextension of the neck. This is used to limit the 
neurologic sensations in your hand.
 
Followup Instructions:
___